US08030337B2
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-4-phenylbutanamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) was dissolved in pyridine (4 mL), 4-phenylbutanoyl chloride (74.1 mg, 0.406 mmol) was added under ice-cooling, and the mixture was stirred for 15 min. Water was added to the reaction solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=80/20→100/0) to give the title compound (96.8 mg, yield 69%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | 4-phenylbutanoyl chloride | 0.406 mmol, 74.1 mg | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | Water | O | H2O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-4-phenylbutanamide | 96.8 mg, yield 69% | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CCCC1=CC=CC=C1)=O | C23H28N2O3
